US04272435
To a 1-liter autoclave were added 7 moles of ammonia and then 3.5 moles of 90%-pure 2-hydroxy-2,4-dimethylpentanonitrile, and the mixture was reacted at 27° C. for 10 hours at a rate of 300 r.p.m. Thus, 2-amino-2,4-dimethylpentanonitrile was synthesized. After reaction, the reaction mixture was taken out of the autoclave, and 44 g of the water phase was separated. The residue was distilled in a wetted wall tower under the following conditions: Temperature of the heating portion 25° C.; pressure 30 mmHg; and residence time in the heating portion 1 minute or less. Low-boiling compounds were thus distilled off and purified 2-amino-2,4-dimethylpentanonitrile was withdrawn from the bottom. The yield of the purified product was 90.0 mole % based on cyanohydrin. This purified product contained 0.5% by weight of ammonia and 0.8% by weight of hydrogen cyanide, and its purity was 90%.

reactant | ammonia | 7 moles | N | H3N
reactant | 2-hydroxy-2,4-dimethylpentanonitrile | OC(C#N)(CC(C)C)C | C7H13NO
solvent | water | 44 g | O | H2O
product | 2-amino-2,4-dimethylpentanonitrile | NC(C#N)(CC(C)C)C | C7H14N2
